US07115611B2
B] [6-(4-Trifluoromethyl-phenyl)-pyridazin-3-yl]-methanol
0.582 g (2.062 mmol) of the above prepared 6-(4-trifluoromethyl-phenyl)-pyridazine-3-carboxylic acid methyl ester in 20 ml of abs. THF was cooled down to −15° C. and reacted with 5.16 ml of DIBAL-H-solution (1.0 M in toluene, 2.5 eq.) for ½ h. Careful quenching with ice/HCl dil., twofold extraction with AcOEt, washing with water, drying over sodium sulfate, and evaporation of the solvents left a crude product which was purified by flash chromatography (SiO2, AcOEt) to yield 0.155 g of the title compound as light brown solid.

reactant | 6-(4-trifluoromethyl-phenyl)-pyridazine-3-carboxylic acid methyl ester | COC(=O)C=1N=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F | C13H9F3N2O2
reactant | DIBAL-H | 1.0 M, 5.16 ml, 2.5 eq. | CC(C)C[AlH]CC(C)C
solvent | THF | C1CCOC1 | C4H8O
product | [6-(4-Trifluoromethyl-phenyl)-pyridazin-3-yl]-methanol | 0.155 g | FC(C1=CC=C(C=C1)C1=CC=C(N=N1)CO)(F)F | C12H9F3N2O
